US09024021B2
A mixture of methyl 3-iodo-4-methylbenzoate (2.0 g, 7 mmol), trimethylsilylacetylene (1.2 ml, 8 mmol), Pd(PPh3)4 (0.42 g, 0.3 mmol), CuI (0.137 g, 0.7 mmol) and diisopropylethylamine (2.5 ml, 11.4 mmol) in THF (20 ml) was heated at 50° C. for 12 hrs under nitrogen atmosphere. The reaction mixture was cooled to ambient temperature and filtered through a Celite® bed. The clear filtrate was concentrated and the residue purified by flash chromatography on silica gel (elution with 2% ethyl acetate in n-hexane) to provide methyl 4-methyl-3-[(trimethylsilyl)ethynyl]benzoate.

reactant | methyl 3-iodo-4-methylbenzoate | 7 mmol, 2.0 g | IC=1C=C(C(=O)OC)C=CC1C | C9H9IO2
reactant | trimethylsilylacetylene | 8 mmol, 1.2 ml | C[Si](C)(C)C#C | C5H10Si
reactant | diisopropylethylamine | 11.4 mmol, 2.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.3 mmol, 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.7 mmol, 0.137 g | [Cu]I
product | methyl 4-methyl-3-[(trimethylsilyl)ethynyl]benzoate | CC1=C(C=C(C(=O)OC)C=C1)C#C[Si](C)(C)C | C14H18O2Si
